US08012976B2
A mixture of 4-aminoisobenzofuran-1(3H)-one (894 mg, 6 mmol), isonicotinaldehyde (2.568 g, 24 mmol) and anhydrous sodium sulfate (3.6 g) in anhydrous ethanol (70 mL) was heated to reflux for two days. The mixture was cooled to room temperature and filtered. The filtrate was concentrated to give the crude product. The crude product was washed with petroleum ether to give (E)-4-(pyridin-4-ylmethyleneamino)isobenzofuran-1(3H)-one (1.1 g, yield 77%) as a white solid. 1H-NMR (400 MHz, CDCl3) δ (ppm): 5.44 (s, 1H), 7.40-7.42 (d, J=7.6 Hz, 1H), 7.59-7.63 (t, J=7.6 Hz, 1H), 7.77-7.79 (d, J=5.6 Hz, 2H), 7.84-7.86 (d, J=7.6 Hz, 1H), 8.54 (s, 1H), 8.81-8.82 (d, J=4.8 Hz, 1H); LC-MS (ESI) m/z: 239(M+1)+.

reactant | 4-aminoisobenzofuran-1(3H)-one | 6 mmol, 894 mg | NC1=C2COC(C2=CC=C1)=O | C8H7NO2
reactant | isonicotinaldehyde | 24 mmol, 2.568 g | C(C1=CC=NC=C1)=O | C6H5NO
reactant | sodium sulfate | 3.6 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | (E)-4-(pyridin-4-ylmethyleneamino)isobenzofuran-1(3H)-one | 1.1 g, yield 77% | N1=CC=C(C=C1)\C=N\C1=C2COC(C2=CC=C1)=O | C14H10N2O2
